US06433174B1
Synthesis of 3-(3,4-Dichlorophenyl)-3-methoxycarbonyl propionic Acid
17.94 g of sodium hydride with 61% purity and 350 ml of dried dimethyl sulfoxide were added to a well dried 1-litre 4-necked flask and suspended at room temperature. 99.00 g of methyl 3,4-dichlorophenylacetate was added dropwise thereto under cooling with ice water, the solution being continuously stirred at room temperature even after the end of the dropwise addition. Then 50.38 g of sodium chloroacetate was added under cooling with ice water and the solution was stirred at room temperature. The produced red suspension was poured into a mixture of 500 ml of 1N hydrochloric acid and 300 ml of ice water, and the solution was stirred vigorously. The reaction mixture was extracted with 800 ml of ether, and the organic layer was washed with 500 ml of water (three times) and 500 ml of a saturated saline solution (once). The organic layer was dried over anhydrous sodium sulfate and the solvent was distilled away to obtain 123.94 g of an oily substance. This oily substance was crystallized by treating it with about 400 ml of an ethyl acetate/hexane (1/20) mixture. The precipitated crystals were filtered out, washed with a small quantity of ethyl acetate/hexane (1/20) and then dried to give 93.46 g of the primary crystals of the title substance. Meanwhile, the filtrate was concentrated and crystallized from ethyl acetate/hexane, and the precipitated crystals were filtered out and dried to obtain 9.29 g of the secondary crystals (102.75 g with the primary and secondary crystals put together, 81.0% yield) of the title substance.

reactant | sodium hydride | 17.94 g | [H-].[Na+]
reactant | methyl 3,4-dichlorophenylacetate | 99.00 g | ClC=1C=C(C=CC1Cl)CC(=O)OC | C9H8Cl2O2
reactant | sodium chloroacetate | 50.38 g | ClCC(=O)[O-].[Na+]
reactant | hydrochloric acid | 1N, 500 ml | Cl | ClH
solvent | dimethyl sulfoxide | 350 ml | CS(=O)C | C2H6OS
product | 3-(3,4-Dichlorophenyl)-3-methoxycarbonyl propionic Acid | 93.46 g | ClC=1C=C(C=CC1Cl)C(CC(=O)O)C(=O)OC | C11H10Cl2O4
